US04748272
2-(4-acetyl-2-n-propyl-3-hydroxyphenoxy)-2-(4-methoxyphenyl) acetic acid
A mixture of 4.5 g of Ethyl 2-(4-acetyl-2-n-propyl-3-hydroxyphenoxy)-2-(4-methoxyphenyl)acetate and 150 ml of 1 Normal sodium hydroxide was stirred at 80° C. for 2 hours. The reaction mixture was then cooled, acidified with 1 Normal hydrochloric acid, extracted with ethyl acetate, treated with charcoal, filtered and concentrated to dryness to give an oily residue which was crystallized from EtOAc/hexane, yielding 0.9 g of product, melting point 154°-156° C.

reactant | Ethyl 2-(4-acetyl-2-n-propyl-3-hydroxyphenoxy)-2-(4-methoxyphenyl)acetate | 4.5 g | C(C)(=O)C1=C(C(=C(OC(C(=O)OCC)C2=CC=C(C=C2)OC)C=C1)CCC)O | C22H26O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2-(4-acetyl-2-n-propyl-3-hydroxyphenoxy)-2-(4-methoxyphenyl) acetic acid | 0.9 g | C(C)(=O)C1=C(C(=C(OC(C(=O)O)C2=CC=C(C=C2)OC)C=C1)CCC)O | C20H22O6
